US05532237
Step 1: 2-Methyl-1H-indol-3-ylacetic acid, methyl ester.
To 2-methyl indole (1.69 g; 12.9 mmol) in 10 mL of THF at 0° C. was added MeMgBr 1.4M (12.9 mmol). After 30 min at 0° C. ZnCl2 1M (12.9 mL; 12.9 mmol) in THF was added and the reaction stirred for an other 30 min at r.t. Methyl bromoacetate (1.4 mL; 14.7 mmol) was added dropwise and left stirring for 48 h. The mixture was poured into aqueous NaHCO3, extracted with EtOAc (3×25 mL) and the combined organic extracts were washed with brine. The solution was dried over Na2SO4 and the solvent removed. Chromatography on silica gel (eluted with 5% EtOAc in hexane) yielded 1.13g (43%) of the title compound.

reactant | 2-methyl indole | 12.9 mmol, 1.69 g | CC=1NC2=CC=CC=C2C1 | C9H9N
reactant | MeMgBr | 12.9 mmol, 1.4M | C[Mg+].[Br-]
reactant | Methyl bromoacetate | 14.7 mmol, 1.4 mL | BrCC(=O)OC | C3H5BrO2
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | THF | 10 mL | C1CCOC1 | C4H8O
catalyst | ZnCl2 | 12.9 mmol, 1M, 12.9 mL | [Cl-].[Cl-].[Zn+2]
product | 2-Methyl-1H-indol-3-ylacetic acid, methyl ester | 1.13g, 43% | CC=1NC2=CC=CC=C2C1CC(=O)OC | C12H13NO2
